US07435815B2
3-[(Quinolin-2-ylmethyl)-amino]-propan-1-ol
prepared by reaction of 3-amino-propan-1-ol with quinoline-2-carbaldehyde

reactant | 3-amino-propan-1-ol | NCCCO | C3H9NO
reactant | quinoline-2-carbaldehyde | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
product | 3-[(Quinolin-2-ylmethyl)-amino]-propan-1-ol | N1=C(C=CC2=CC=CC=C12)CNCCCO | C13H16N2O
